US06638962B2
Step A: tert-Butyl(dimethyl){[3-(2-methylbenzylidene)-1-cyclohepten-1-yl]oxy}silane
To a solution of cycloheptenone (71.7 mmol) in 220 ml of anhydrous THF there are added, in succession, triphenylphosphine (72.6 mmol) and then, dropwise, tert-butyldimethylsilyl triflate (72.3 mmol), and the whole is stirred at room temperature for 1 hour 30 minutes. The mixture is then brought to −78° C., and a solution of nBuLi/hexane (72 mmol) is added slowly, followed 30 minutes later by 2-methylbenzaldehyde (72.03 mmol). The whole is stirred at that temperature for 30 minutes, and then with the temperature gradually returning to room temperature. After 2 hours 30 minutes, the reaction mixture is precipitated from 2.5 liters of petroleum ether and filtered, and the filtrate is concentrated to dryness. The title product is purified by chromatography over silica gel (100% heptane).

reactant | cycloheptenone | 71.7 mmol | C1(C=CCCCC1)=O | C7H10O
reactant | triphenylphosphine | 72.6 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyldimethylsilyl triflate | 72.3 mmol | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | nBuLi hexane | 72 mmol | [Li]CCCC.CCCCCC
reactant | 2-methylbenzaldehyde | 72.03 mmol | CC1=C(C=O)C=CC=C1 | C8H8O
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | tert-Butyl(dimethyl){[3-(2-methylbenzylidene)-1-cyclohepten-1-yl]oxy}silane | C(C)(C)(C)[Si](OC1=CC(CCCC1)=CC1=C(C=CC=C1)C)(C)C | C21H32OSi
